US04252963
When the reaction is carried out as described in Example 23 with the exception that instead of N-ethyl-N-phenylthiourea an equimolar amount of N-methyl-N-phenylthiourea is used, 3-methyl-2-iminobenzthiazoline melting at 122° C. is obtained in a yield of 95.6% and with an equally good purity.

reactant | N-ethyl-N-phenylthiourea | C(C)N(C(=S)N)C1=CC=CC=C1 | C9H12N2S
reactant | N-methyl-N-phenylthiourea | CN(C(=S)N)C1=CC=CC=C1 | C8H10N2S
product | 3-methyl-2-iminobenzthiazoline | yield of 95.6% | CN1C(SC2=C1C=CC=C2)=N | C8H8N2S
